US08003649B2
A stirred solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (312 mg, 1.40 mmol), (1R,5S)-tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate (312 mg, 1.47 mmol) and DIPEA (0.36 ml, 2.10 mmol) in ethanol (7.00 ml) was heated at 70° C. for 18 hours. On cooling a white precipitate formed which was collected by filtration, washed with ethanol (10 mL) and dried under vacuum to afford (1R,5S)-tert-butyl 3-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate (384 mg, 69%) as a white crystalline solid.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 1.40 mmol, 312 mg | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | (1R,5S)-tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 1.47 mmol, 312 mg | [C@H]12CNC[C@H](CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | DIPEA | 2.10 mmol, 0.36 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 7.00 ml | C(C)O | C2H6O
product | (1R,5S)-tert-butyl 3-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 384 mg, 69% | FC(C1=NN=C2N1N=C(C=C2)N2C[C@H]1CC[C@@H](C2)N1C(=O)OC(C)(C)C)(F)F | C17H21F3N6O2
